US04349552
Diphenylphosphoryl azide (12.25 g.) was added dropwise to a solution of glutaric acid mono-tert-butyl ester (8.38 g.) in dry pyridine (37 ml.) and stirred at 90° C. for 40 minutes to give 3-tert-butoxycarbonylpropyl isocyanate (I.R.: 2270 cm-1).

reactant | Diphenylphosphoryl azide | 12.25 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | glutaric acid mono-tert-butyl ester | 8.38 g | C(C)(C)(C)OC(CCCC(=O)O)=O | C9H16O4
reactant | pyridine | 37 ml | N1=CC=CC=C1 | C5H5N
product | 3-tert-butoxycarbonylpropyl isocyanate | C(C)(C)(C)OC(=O)CCCN=C=O | C9H15NO3
